US04146718
4,5-Dichloroisatin
Chlorination of 4-chloroisatin with sulfuryl chloride by the method of B. R. Baker, et al., J. Org. Chem., 17, 149 (1952), gave a 70% yield of the title compound.

reactant | 4-chloroisatin | ClC1=C2C(C(NC2=CC=C1)=O)=O | C8H4ClNO2
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 4,5-Dichloroisatin | 70% yield | ClC1=C2C(C(NC2=CC=C1Cl)=O)=O | C8H3Cl2NO2
